US07666848B2
c) 3-Benzyloxy-5-isopropyl-N-methoxy-N-methylthiophene-2-carboxamide
860 mg of 3-benzyloxy-5-isopropyl-thiophene-2-carboxylic acid were dissolved in 30 ml of dichloromethane, and 560 mg of N,O-dimethylhydroxylamine hydrochloride and 2.3 of triethylamine were added. After 15 min at 22° C., 2.3 ml of a 50% strength 1-propanephosphonic anhydride solution in acetic acid were added, and the mixture was stirred at 22° C. for a further 18 h. The reaction mixture was washed twice with 20 ml of water each time and once with 70 ml of saturated sodium chloride solution. The organic phase was dried over sodium sulfate and concentrated.

reactant | 3-benzyloxy-5-isopropyl-thiophene-2-carboxylic acid | 860 mg | C(C1=CC=CC=C1)OC1=C(SC(=C1)C(C)C)C(=O)O | C15H16O3S
reactant | N,O-dimethylhydroxylamine hydrochloride | 560 mg | Cl.CNOC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Benzyloxy-5-isopropyl-N-methoxy-N-methylthiophene-2-carboxamide | C(C1=CC=CC=C1)OC1=C(SC(=C1)C(C)C)C(=O)N(C)OC | C17H21NO3S
